US07259266B2
Step 4. Preparation of ethyl 6-chloro-5-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To 1.1 g (6.7 mmole) of 3-chloro-2-fluoro-6-hydroxybenzaldehyde in 2 mL DMF was added 1.0 g (7.2 mmole) of potassium carbonate and 3A molecular sieves. The stirred mixture was heated to 70° C. and treated with 1.5 mL (1.69 g, 10.0 mmole) of ethyl 4,4,4-trifluorocrotonate. After lh the mixture was treated with an additional 1.5 mL of ethyl 4,4,4-trifluorocrotonate and allowed to react overnight. To the cooled mixture was added 1N HCl, the mixture extracted three times with methylene chloride and the combined organic fractions dried and concd. The resultant oil was dissolved in ether, washed three times with water and concd to give an oil. Chromatographic purification (silica, 5-10% EtOAc/hex) gave 0.76 g (35%) of a clear, yellow oil: 1H NMR (CDCl3/400 MHz) 1.37 (t, 3H, J=7.2 Hz), 4.34 (m, 2H), 5.72 (q, 1H, J=6.8 Hz), 6.77 (d, 1H, J=8.8 Hz), 7.32 (t, 1H, J=8.5 Hz), 7.92 (s, 1H); 19F NMR (CDCl3/400 MHz) −78.7 (d, 3F, J=6.8 Hz), −119.6 (d, 1F, J=7.7 Hz); 13C NMR (CDCl3/100 MHz) 14.2, 61.9, 70.8 (q, J=33.4 Hz), 110.0 (d, J=18.1 Hz), 112.6 (d, J=4.0 Hz), 114.4 (d, J=17.3 Hz), 118.2 (J=2.3 Hz), 123.2 (q, J=287.3 Hz), 129.2 (d, J=4.6 Hz), 133.2 (d, J=1.3 Hz), 152.2 (d, J=4.4 Hz), 154.9 (d, J=256.4 Hz), 163.3; MS (ESI+) 325 (M+l, 100); MS (EI) 324 (M+, 21), 255 (100), 227 (83); HRMS (EI) m/z calcd for (C13H9O3ClF4) 324.0176, found 324.0171.

reactant | 3-chloro-2-fluoro-6-hydroxybenzaldehyde | 6.7 mmole, 1.1 g | ClC=1C(=C(C=O)C(=CC1)O)F | C7H4ClFO2
reactant | potassium carbonate | 7.2 mmole, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4,4,4-trifluorocrotonate | 10.0 mmole, 1.5 mL, 1.69 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | ethyl 4,4,4-trifluorocrotonate | 1.5 mL | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | ethyl 6-chloro-5-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC)F | C13H9ClF4O3
